US05578242
4-(Isothiocyanato)thiophenol (3)
A solution of 4-aminothiophenol (7.00 g, 0.056 mol) in chloroform (75 ml) was added to a stirred, cooled (0° C.) solution of water (40 ml), chloroform (20 ml), calcium carbonate (6.60 g, 0.066 mol), and thiophosgene (6.95 g, 0.060 mol) at 0°-5° C. The mixture was heated at 35° C. for 1 hour and poured into water (50 ml) before separating the two layers. The organic layer was washed with hydrochloric acid (1%, 100 ml) and dried (MgSO4). The solvent was removed in vacuo to afford an orange semi-solid which was used in the next step without purification.

reactant | 4-aminothiophenol | 0.056 mol, 7.00 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | water | 40 ml | O | H2O
reactant | calcium carbonate | 0.066 mol, 6.60 g | C([O-])([O-])=O.[Ca+2]
reactant | thiophosgene | 0.060 mol, 6.95 g | C(=S)(Cl)Cl | CCl2S
reactant | water | 50 ml | O | H2O
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(Isothiocyanato)thiophenol | N(=C=S)C1=CC=C(C=C1)S | C7H5NS2
